### PR TITLE
[Merged by Bors] - feat: a reduced crystallographic root system has a base

### LINKED ISSUE #28717: A reduced crystallographic root system has a base

### PR DESCRIPTION
**Pull request by ocfnash**
---

Closes https://github.com/leanprover-community/mathlib4/issues/28717

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/LinearAlgebra/RootSystem/Finite/Nondegenerate.lean [hunk 1]
```diff
@@ -374,19 +374,25 @@ lemma polarizationEquiv_apply (m : M) :
     P.PolarizationEquiv m = P.Polarization m :=
   congr($P.polarizationEquiv_toLinearMap m)
 
+lemma polarizationEquiv_apply_root (i : ι) :
+    P.coroot i = (2 / P.RootForm (P.root i) (P.root i)) • P.PolarizationEquiv (P.root i) := by
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/RootSystem/Finite/Nondegenerate.lean]: This name seems to mainly refer to the RHS of the equality...
Not sure what the best improvement is.
- swap sides?
- add `coroot_eq` as prefix to the name?

File: Mathlib/LinearAlgebra/RootSystem/BaseExists.lean [hunk 2]
```diff
@@ -196,6 +181,154 @@ lemma exists_dual_baseOf_eq [Module ℚ M] [Module ℚ N]
...
+    obtain ⟨q, hq₀, hq⟩ := aux i
+    simp [g, polarizationEquiv_apply_root, ← hq, Rat.cast_smul_eq_qsmul, hq₀.ne', hf₀ i]
+  have hg (i : ι) : 0 < g (P.coroot i) ↔ 0 < f (P.root i) := by
+    obtain ⟨q, hq₀, hq⟩ := aux i
+    simp [g, polarizationEquiv_apply_root, ← hq, Rat.cast_smul_eq_qsmul, hq₀]
+  rw [hf, P.baseOf_root_eq_baseOf_coroot f hf₀ g hg₀ (fun i ↦ (hg i).symm)]
+  exact mem_or_neg_mem_closure_baseOf P.coroot (g : N →+ ℚ) i (hg₀ i) (by simp)
+
+/-- An alternate constructor for `RootPairing.Base` which demands the axioms for roots but not for
+coroots. -/
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/RootSystem/BaseExists.lean:311]:
```suggestion
/-- An alternate constructor for `RootPairing.Base` which demands the axioms for roots but not for
coroots. (This requires the ambient root system to be crystallographic and reduced.) -/
```

File: Mathlib/LinearAlgebra/RootSystem/BaseExists.lean [hunk 3]
```diff
@@ -91,92 +89,80 @@ lemma linearIndepOn_root_baseOf' [IsDomain R] {S : Type*}
...
+  replace h_span : span R (range <| (P.rootSpan ℚ).subtype ∘ v) = ⊤ := by
     rw [range_comp, ← span_span_of_tower ℚ, span_image, h_span]
     simp
-  rw [linearIndependent_iff_card_eq_finrank_span, Set.finrank, hv, finrank_top, ← h_card,
+  rw [linearIndependent_iff_card_eq_finrank_span, Set.finrank, h_span, finrank_top, ← h_card,
     Fintype.card_eq_nat_card]
 
-/-- A set of linearly independent roots whose cone span over `ℕ` contains all the roots is a basis
-for the ambient space. -/
-noncomputable def basisOfBase
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/RootSystem/BaseExists.lean:137]: Are you intentionally dropping this? And the lemma below?
Because this seems to work without the assumption that `P` is reduced. Do you think it might be worth keeping?

File: Mathlib/LinearAlgebra/RootSystem/Finite/Nondegenerate.lean (hunk 1 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/RootSystem/Finite/Nondegenerate.lean]: Good point. In many cases I would swap sides but this is just so likely to be used in the current forward direction (as in all five current uses case) that I've opted for your second suggestion and prepended the name with `coroot_eq_`.

File: Mathlib/LinearAlgebra/RootSystem/BaseExists.lean (hunk 3 above)
Comment (ocfnash) [reply Mathlib/LinearAlgebra/RootSystem/BaseExists.lean:137]: I don't think it's worth preserving this for the non-reduced case.

Any non-reduced root system has a corresponding reduced system (obtained by taking roots $\alpha$ such that $\alpha / 2$ is not a root, IIRC) and I think this is the path that the API should guide the user toward.

So given this data in a non-reduced setting, they pass to the reduced case, use this data to get the base of that system, and get their basis. I prefer this on abstract grounds but I think it should also mean less special-case code.

Having said all that, I'm happy to bring back this construction if you aren't convinced.

File: Mathlib/LinearAlgebra/RootSystem/BaseExists.lean [hunk 4]
```diff
@@ -196,6 +181,154 @@ lemma exists_dual_baseOf_eq [Module ℚ M] [Module ℚ N]
...
+    obtain ⟨q, hq₀, hq⟩ := aux i
+    simp [g, coroot_eq_polarizationEquiv_apply_root, ← hq, Rat.cast_smul_eq_qsmul, hq₀.ne', hf₀ i]
+  have hg (i : ι) : 0 < g (P.coroot i) ↔ 0 < f (P.root i) := by
+    obtain ⟨q, hq₀, hq⟩ := aux i
+    simp [g, coroot_eq_polarizationEquiv_apply_root, ← hq, Rat.cast_smul_eq_qsmul, hq₀]
+  rw [hf, P.baseOf_root_eq_baseOf_coroot f hf₀ g hg₀ (fun i ↦ (hg i).symm)]
+  exact mem_or_neg_mem_closure_baseOf P.coroot (g : N →+ ℚ) i (hg₀ i) (by simp)
+
+/-- An alternate constructor for `RootPairing.Base` which demands the axioms for roots but not for
+coroots. (This requires the ambient root system to be crystallographic and reduced.) -/
```
Comment (ocfnash) [inline Mathlib/LinearAlgebra/RootSystem/BaseExists.lean]: I added this comment from a suggestion rather quickly, but I'm not so sure it is helpful now: the existence of a base trivially implies crystallographic and even reduced (because Mathlib's `RootPairing.Base` is slightly stronger than the informal literature).
```suggestion
coroots. -/
```

File: Mathlib/LinearAlgebra/RootSystem/BaseExists.lean (hunk 3 above)
Comment (jcommelin) [reply Mathlib/LinearAlgebra/RootSystem/BaseExists.lean:137]: Ok, fair enough! Happy to know you thought about this (-;

**Review by jcommelin — COMMENTED** [review]
LGTM

Thanks :tada:

bors merge
